### PR TITLE
chore: a UniformSpace erw

### PR DESCRIPTION
**Pull request by kim-em**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/UniformSpace/Matrix.lean [hunk 1]
```diff
@@ -27,7 +27,8 @@ instance instUniformAddGroup [AddGroup 𝕜] [UniformAddGroup 𝕜] :
 
 theorem uniformity :
     𝓤 (Matrix m n 𝕜) = ⨅ (i : m) (j : n), (𝓤 𝕜).comap fun a => (a.1 i j, a.2 i j) := by
-  erw [Pi.uniformity]
+  unfold instUniformSpace Matrix
```
Comment (eric-wieser) [inline Mathlib/Topology/UniformSpace/Matrix.lean:30]: `unfold Matrix` seems pretty criminal; I think the right fix here is to induce the uniform space through `Matrix.of` on line 22?
